US04404379
530 g of N-methyl-1,3-diaminopropane are slowly added dropwise to a mixture of 650 ml of isobutyraldehyde and 400 ml of cyclohexane cooled with ice. When the exothermic reaction has died down, the reaction mixture is boiled under reflux on a water separator until approximately 108 ml of water have been separated. Cyclohexane and isobutyraldehyde are distilled off at reduced pressure. Fractional distillation of the residue (b.p.15 : 68° to 75° C.) yields 680 g of 1-methyl-2-isopropylhexahydropyrimidine.

reactant | N-methyl-1,3-diaminopropane | 530 g | CNCCCN | C4H12N2
reactant | isobutyraldehyde | 650 ml | C(C(C)C)=O | C4H8O
reactant | cyclohexane | 400 ml | C1CCCCC1 | C6H12
solvent | water | approximately 108 ml | O | H2O
product | 1-methyl-2-isopropylhexahydropyrimidine | 680 g | CN1C(NCCC1)C(C)C | C8H18N2
